US05492905
Example 26. 3-Anilino-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine.
3-Methoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine (1.0 g) and aniline (10 mL) were heated to reflux for 5 hours and diluted with water. Hydrochloric acid (2N) was added and the mixture extracted with ethyl acetate. The organic extracts were washed (acid, brine), dried and evaporated to give a solid which was purified by chromatography, with ethyl acetate:toluene (1:4) as the eluent. Recrystallization from ethyl acetate gave the title compound (0.405 g); mp 227°-228° C.: NMR: 6.28 (s,1); MS(E1): m/z=264(M). Analysis for C16H12N2O2 ·0.1 H2O: Calculated: C, 72.22; H, 4.62; N, 10.53; Found: C, 72.32; H, 4.68; N, 10.65.

reactant | 3-Methoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | 1.0 g | COC1=CC(C2=C(NC1=O)C=CC=C2)=O | C11H9NO3
reactant | aniline | 10 mL | NC1=CC=CC=C1 | C6H7N
reactant | Hydrochloric acid | 2N | Cl | ClH
solvent | water | O | H2O
product | 3-Anilino-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | 0.405 g | N(C1=CC=CC=C1)C1=CC(C2=C(NC1=O)C=CC=C2)=O | C16H12N2O2
